US08106083B2
4-(morpholinomethyl)aniline (577 mg, 3.0 mmol) was added to sulfinylbis((2,4-dihydroxy-5-isopropylphenyl)methanethione) (746 mg, 1.7 mmol) in 10 ml DMF at rt. It was stirred for 2 h and then added into 20 ml water. The pH was adjusted to 7-8 and then extracted with ethyl acetate. The combined extracts were dried over Na2SO4, filtered and the solvent removed. The crude product was purified by chromatography on silica with DCM/MeOH (5-10%) to yield 1.23 g (2.8 mmol). The thioamide (289 mg, 0.66 mmol) was then added to hydrazinecarboxamide (147 mg, 1.32 mmol) and mercury chloride (210 mg, 0.79 mmol) in 8 ml DMF. Pyridine (244 ul, 3.0 mmol) was added and the mixture heated in a microwave reactor at 120° C. for 2 h. The crude mixture was filtered, concentrated and purified by chromatography on silica with DCM/MeOH (0-10%) to yield 28 mg (0.07 mmol) 4-(5-amino-4-(4-(morpholinomethyl)phenyl)-4H-1,2,4-triazol-3-yl)-6-isopropylbenzene-1,3-diol.

reactant | 4-(morpholinomethyl)aniline | 3.0 mmol, 577 mg | O1CCN(CC1)CC1=CC=C(N)C=C1 | C11H16N2O
reactant | sulfinylbis((2,4-dihydroxy-5-isopropylphenyl)methanethione) | 1.7 mmol, 746 mg | S(=O)(C(=S)C1=C(C=C(C(=C1)C(C)C)O)O)C(=S)C1=C(C=C(C(=C1)C(C)C)O)O | C20H22O5S3
reactant | hydrazinecarboxamide | 1.32 mmol, 147 mg | N(N)C(=O)N | CH5N3O
reactant | Pyridine | 3.0 mmol, 244 ul | N1=CC=CC=C1 | C5H5N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
catalyst | mercury chloride | 0.79 mmol, 210 mg | [Hg]Cl
solvent | water | 20 ml | O | H2O
product | 4-(5-amino-4-(4-(morpholinomethyl)phenyl)-4H-1,2,4-triazol-3-yl)-6-isopropylbenzene-1,3-diol | 0.07 mmol, 28 mg | NC=1N(C(=NN1)C1=C(C=C(C(=C1)C(C)C)O)O)C1=CC=C(C=C1)CN1CCOCC1 | C22H27N5O3
